US20010003782A1
3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid amide
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid (1.0 g) is reacted with ammonia and hydrolysed with ethanol/HCl following the procedure outlined in example 10 to give the title compound (147 mg). Melting point: 233-235° C. 1H-NMR (CDCl3, 400 MHz)): δ=5.36 (1H, s); 5.45−5.2 (2H, broad d); 3.25 (1H, m). MS: Calculated: 399.6. Found: 399.3.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
reactant | ammonia | N | H3N
reactant | ethanol HCl | C(C)O.Cl
product | 3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid amide | 147 mg | O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)N)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C26H41NO2
